US03952031
c. 2α,3α-Epoxy-16-methyl-5α-pregn-16-ene-11,20-dione
16-Methyl-5α-pregna-2,16-diene-11,20-dione (800 mg.) in methylene chloride (50 ml.) was treated with m-chloroperbenzoic acid (85%; 535 mg.), and the solution was left to stand at room temperature overnight. More methylene chloride (50 ml.) was added and the solution washed with potassium bicarbonate solution (5%, 100 ml.) and with water (100 ml.), dried over sodium sulphate and evaporated to a crystalline solid (~ 1g.) which was purified by preparative TLC in ethyl acetate/petrol, 1/1 run twice. The main band yielded a white solid (650 mg.) which was recrystallised from acetone/ petrol to give title compound (515 mg.) as white crystals, m.p. 155°-157°, [α]D + 57.8° (c 0.9), λmax. (EtOH) 246.5 nm (ε 9150).

reactant | 16-Methyl-5α-pregna-2,16-diene-11,20-dione | 800 mg | CC1=C(C(C)=O)[C@]2(CC([C@@H]3[C@]4(CC=CC[C@@H]4CC[C@H]3[C@@H]2C1)C)=O)C | C22H30O2
reactant | m-chloroperbenzoic acid | 535 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2α,3α-Epoxy-16-methyl-5α-pregn-16-ene-11,20-dione | 515 mg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC(=C(C(C)=O)[C@]4(CC([C@@H]3[C@]1(C2)C)=O)C)C | C22H30O3
